US07049438B2
Using analogous procedures to those described in Note [33] immediately above, 1-(tert-butoxycarbonyl)-L-proline was reacted with 1-methylpiperazine to give (2S)-1-(tert-butoxycarbonyl)-2-(4-methylpiperazin-1-ylcarbonyl)pyrrolidine which was deprotected and reacted with 2-bromoethanol. There was thus obtained the required starting material; NMR Spectrum: (CDCl3) 1.7–2.05 (m, 4H), 2.1–2.25 (m, 1H), 2.32 (s, 3H), 2.35–2.5 (m, 4H), 2.6–2.7 (m, 1H), 2.8–2.9 (m, 1H), 3.3–3.7 (m, 8H), 4.15 (br s, 1H); Mass Spectrum: M+H+ 242.

reactant | 1-(tert-butoxycarbonyl)-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | (2S)-1-(tert-butoxycarbonyl)-2-(4-methylpiperazin-1-ylcarbonyl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1CCN(CC1)C | C15H27N3O3
